US09328093B2
9-chloro-5,6,7,8-tetrahydroacridine-3-carboxylic acid (VIIa)
A suspension of 9-oxo-5,6,7,8,9,10-hexahydro-acridine-3-carboxylic acid (VIa) (10 g, 4.1 mmols) in phosphorous oxychloride (50 mL) was heated to 100° C. for 1 h. Reaction completion was monitored by TLC. After completion, the reaction mixture was cooled to 25° C. and excess phosphorous oxychloride was removed under vacuum. The residue was mixed with ice (50 g) and the pH was adjusted to 4-5 with solid sodium bicarbonate. The solid obtained was filtered, washed with water (250 mL) and dried under vacuum to get 9.6 g (88%) of compound (Vila) as a white solid.

reactant | 9-oxo-5,6,7,8,9,10-hexahydro-acridine-3-carboxylic acid | 4.1 mmols, 10 g | O=C1C=2CCCCC2NC=2C=C(C=CC12)C(=O)O | C14H13NO3
reactant | phosphorous oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 9-chloro-5,6,7,8-tetrahydroacridine-3-carboxylic acid | 9.6 g, 88% | ClC=1C=2CCCCC2N=C2C=C(C=CC12)C(=O)O | C14H12ClNO2
